US09290468B2
Step 6: methyl 4-amino-5-(4-methoxybenzylthio)-3-fluoro-2-((2-chlorophenyl)amino)benzoate
To a solution of methyl 4-azido-5-(4-methoxybenzylthio)-3-fluoro-2-((2-chlorophenyl)amino)-benzoate (21.63 g, 45.74 mmol) in MeOH (500 mL) was added and 10% palladium on carbon (3.40 g) under nitrogen atmosphere. Then the nitrogen atmosphere was completely changed to hydrogen atmosphere. The mixture was stirred for 2 h at ambient temperature. After the insoluble matter was filtered off, the solvent was evaporated in vacuo to give the desired product (19.93 g, 97.5% yield). 1H NMR (400 MHz, CDCl3): δ 8.99 (s, 1H), 7.82 (s, 1H), 7.21 (m, 1H), 7.17 (m, 3H), 6.87 (m, 3H), 6.69 (m, 1H), 4.63 (s, 2H), 3.85 (s, 5H), 3.81 (s, 3H).

reactant | methyl 4-azido-5-(4-methoxybenzylthio)-3-fluoro-2-((2-chlorophenyl)amino)-benzoate | 45.74 mmol, 21.63 g | N(=[N+]=[N-])C1=C(C(=C(C(=O)OC)C=C1SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)Cl)F | C22H18ClFN4O3S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 500 mL | CO | CH4O
catalyst | palladium on carbon | 3.40 g | [Pd] | Pd
product | methyl 4-amino-5-(4-methoxybenzylthio)-3-fluoro-2-((2-chlorophenyl)amino)benzoate | 19.93 g, 97.5% yield | NC1=C(C(=C(C(=O)OC)C=C1SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)Cl)F | C22H20ClFN2O3S
